US08614215B2
Intermediate 136: 2-[(4-{[(3-Chloroquinoxalin-2-yl)amino]sulfonyl}phenyl)amino]-2-oxoethyl acetate
To a suspension of 4-amino-N-(3-chloroquinoxalin-2-yl)benzenesulfonamide (2 g; 4.49 mmol; 1 eq) in DCM (100 mL) is added acetoxyacetyl chloride (1.23 mL; 9 mmol; 2 eq) and N-ethyldiisopropylamine (2.3 mL; 13.5 mmol; 3 eq) and the reaction mixture is stirred at room temperature for 30 min. DCM is removed under reduced pressure and the crude residue is dissolved in EtOAc. The organic phase is washed twice with 10% citric acid then brine. The solvent is evaporated and the residue is taken up in iPrOH then refluxed and left at room temperature until precipitation. The precipitate is filtered off then dried under reduced pressure to afford 1.9 g (95%) of the title compound as a yellow powder. 1H NMR (DMSO-d6) δ 10.70 (s, 1H), 8.25 (m, 2H), 8.09 (m, 4H), 7.88 (m, 2H), 4.71 (s, 2H), 2.13 (s, 3H). HPLC (max plot) 98%; Rt 4.03 min. UPLC/MS (ES+) 435.2.

reactant | 4-amino-N-(3-chloroquinoxalin-2-yl)benzenesulfonamide | 4.49 mmol, 2 g, 1 eq | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1Cl | C14H11ClN4O2S
reactant | acetoxyacetyl chloride | 9 mmol, 1.23 mL, 2 eq | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | N-ethyldiisopropylamine | 13.5 mmol, 2.3 mL, 3 eq | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-{[(3-Chloroquinoxalin-2-yl)amino]sulfonyl}phenyl)amino]-2-oxoethyl acetate | 1.9 g, 95% | C(C)(=O)OCC(=O)NC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1Cl | C18H15ClN4O5S
